Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
worsening memory
difficulties, tremors, and balance issues.
 
Major Surgical or Invasive Procedure:
Trans-esophageal echocardiogram. 

 
History of Present Illness:
Ms. ___ is a ___ woman with recently diagnosed RA on
Humira and methotrexate presents with worsening memory
difficulties, tremors, and balance issues. 

She was diagnosed with rheumatoid arthritis in ___ due to
painful joints. Had a positive rheumatoid factor, confirmed with
rheumatology. Started on plaquenil, Humira and a short course of
prednisone (was on a taper starting from 20mg, lasted less than 
1
month). Now on Humira and methotrexate. Plaquenil gave her
diarrhea. 

On ___, she was at work when she developed an acute onset
right wrist drop. Sensation was totally intact, but she was
unable to move her right arm from her elbow down for about 1.5
weeks. She was then slowly able to lift her R index finger, and
symptoms have now resolved. She has been on long term disability
for this, which is very stressful to her. She works as a
___ and manages a pediatrics clinic. 
She
was tested by her PCP 4 times for lyme, but each test has come
back negative. Denies fevers/chills/rashes/tick bites. 

Around the same time as her wrist drop, she started noticing
memory changes. She was having trouble remembering how to use a
television remote but knew it was for the television. Trouble
with word finding and also repeated herself multiple times. This
is what scares her the most. Please see Dr. ___ from
___ for further details. Did start klonopin 1mg BID and
sertraline 200mg (unclear if she was started on a small dose and
titrated up or started immediately at 200mg) for anxiety. She
denies anxiety but PCP put her on this medication.

Tremors also started around this time. She says they are there
all the time, worse with anxiety, nothing seems to make them
better. Worse in the morning as well.

Also endorses balance difficulties. She knows where things are 
in
space, but she has been falling more. A few weeks ago, she hit
her head on the tub. Denies loss of consciousness. 

Endorses urinary incontinence and bowel incontinence. With the
urinary incontinence, she gets up in the middle of the night
knowing that she needs to urinate. She is unable to remember
where the bathroom is in her own house or is unable to figure 
out
how to use the bathroom and thus wets herself. She can feel that
she needs to urinate. How bowel incontinence, however, is random
and she is unable to feel whether or not she needs to have a
bowel movement. This started in ___ of this year, and it
appears to have gotten slightly better since then. She can now
sort of feel like she needs to have a bowel movement but is
unable to get to the bathroom in time or cannot figure out how 
to
use the bathroom. Also endorses diarrhea, has not had a solid
bowel movement since ___. 

Endorses decreased vision, has made an appointment to see an eye
doctor for ?glasses.  

Was worked up with imaging and LP. MRI C-spine showed severe
central canal narrowing C5-C6 and moderate central canal
narrowing and at ___ discs. MRI brain showed T2 lesions in
periventricular and subcortical white matter. LP did now show 
WBC
but protein was elevated to 86 with normal glucose. Lyme
negative, oligoclonal bands negative. 

 
Past Medical History:
1.     Rheumatoid arthritis
2.     Appendectomy
3.     Tonsillectomy and adenoidectomy
4.     C section
5.     Right carpal tunnel release ___
6.     Right wrist ganglion cyst removal ___
7.     Idiopathic tachycardia
 
Social History:
___
Family History:
mother with lupus and rheumatoid arthritis
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
PHYSICAL EXAMINATION
Vitals:  T: 98.9F  HR: 92  BP: 131/87  RR: 18  SaO2: 99% RA
General: NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR
Pulmonary:  breathing comfortably
Abdomen: Soft, NT, ND
GU: intact rectal tone 
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
paraphasias.  No dysarthria. Normal prosody. No apraxia
bilaterally. No evidence of hemineglect. No left-right 
confusion.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 4->2 brisk. VF full to number counting.
Visual acuity: L ___ R: ___. +red desaturation in right
eye. Optic discs crisp and not pale. EOMI, no nystagmus. V1-V3
without deficits to light touch bilaterally. No facial movement
asymmetry. Hearing intact to finger rub bilaterally. Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.

- Motor:  Normal bulk and tone. No drift. +postural tremor, no
asterixis. Tremor is low amplitude and fast, present at rest but
increased when attention is drawn to it or patient is agitated.
If patient is distracted, tremor disappears. 

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  4+    4+     4+      4+       3
     R  4+    4+     4+      4+       3  

Plantar response flexor bilaterally. 2 beats of clonus
bilaterally. Bilateral cross adductors and pectoralis jerks. No
jaw jerk present.  

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: Able to get out of bed alone. Normal initiation. Narrow
base. Normal stride length and arm swing. Very unstable, when
putting feet together and closing eyes, she immediately falls
backwards. 
=====================================
DISCHARGE PHYSICAL EXAM: 
Unchanged from admission
 
Pertinent Results:
___ 04:50AM BLOOD WBC-10.0 RBC-3.92 Hgb-12.8 Hct-39.3 
MCV-100* MCH-32.7* MCHC-32.6 RDW-12.8 RDWSD-46.9* Plt ___
___ 01:15PM BLOOD WBC-11.9* RBC-4.17 Hgb-14.0 Hct-41.0 
MCV-98 MCH-33.6* MCHC-34.1 RDW-12.9 RDWSD-46.4* Plt ___
___ 04:48PM BLOOD ___ PTT-28.0 ___
___ 04:48PM BLOOD Lupus-NEG
___ 04:50AM BLOOD Glucose-92 UreaN-16 Creat-0.7 Na-139 
K-4.5 Cl-102 HCO3-24 AnGap-18
___ 01:15PM BLOOD Glucose-79 UreaN-12 Creat-0.7 Na-138 
K-4.0 Cl-101 HCO3-21* AnGap-20
___ 04:45AM BLOOD ALT-27 AST-31 CK(CPK)-39 AlkPhos-84 
TotBili-0.3
___ 04:50AM BLOOD Cholest-252*
___ 04:45AM BLOOD Albumin-4.1 Calcium-9.0 Phos-3.3 Mg-2.2
___ 04:45AM BLOOD VitB12-746 Folate->20
___ 04:50AM BLOOD %HbA1c-4.9 eAG-94
___ 04:50AM BLOOD Triglyc-221* HDL-49 CHOL/HD-5.1 
LDLcalc-159*
___ 04:45AM BLOOD TSH-1.7
___ 04:50AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, 
IGM)-Negative     
___ 04:50AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-Neg
===============================
Imaging: 
 MRI brain with contrast ___: 1. Subacute infarcts in the left 
cerebral hemispheric watershed distribution. 
And the left frontal and parietal lobe have evolved since the 
previous MRI
examination.
2. Subtle cortical and subcortical enhancement in the left 
posterior temporal
region likely at the site of subacute infarct.
3. Mild mucosal sinus thickening is seen involving the ethmoid 
air cells.  The
remainder of the visualized paranasal sinuses, mastoid air 
cells, and middle
ear cavities are clear.  The globes are unremarkable.

MRI C/T spine ___: 
1. Stable cervical spondylosis compared to the prior exam from ___,
most pronounced at C5-C6 with moderate  spinal canal narrowing 
and severe left
neural foraminal narrowing.
2. Mild thoracic and lumbar spondylosis, as described above.
3. No cord signal abnormalities identified.
4. No concerning enhancing lesions seen.

OSH CTA ___: Outside CT angiography demonstrates 40-50% of 
stenosis with soft plaque
surrounding the proximal left internal carotid artery.  Mild 
___ stenosis
at the origin of right internal carotid artery is also seen.  
Otherwise the CT
angiography is unremarkable.

OSH CTA ___: 1. There is 50% stenosis of the right internal 
carotid artery by NASCET
criteria and 53% stenosis of the left internal carotid artery by 
NASCET
criteria.
2. There is moderate narrowing of the right supraclinoid ICA.  
There is mild
narrowing of the distal cavernous left ICA segment.

___ carotid u/s: Less than 40% stenosis of the right ICA.
 
40-59% stenosis of the left ICA.

Echo ___: No atrial septal defect or patent foramen ovale 
detected by doppler or saline contrast manuevers. No left atrial 
appendage thrombus. Normal biventricular cavity size and global 
systolic function. A simple arthroma is present in the aortic 
arch.

EEG ___: This is a normal continuous EMU monitoring study. One 
pushbutton
activation is accidental. There are no seizures or epileptiform 
discharges.

EEG ___: 
This is a normal continuous EMU monitoring study. Interpretation
is somewhat limited due to excessive diffuse myogenic artifact 
present during
the waking record. Several pushbutton events are accidental. 
There are no
seizures or epileptiform discharges.

 
Brief Hospital Course:
Ms. ___ was admitted for workup of multiple neurologic 
problems. MRI spine ruled out cauda equina, but did show 
moderate to severe central canal stenosis at C5-C6 without cord 
signal change. MRI brain showed multiple chronic watershed vs 
embolic-appearing infarcts in the L hemisphere. In comparison 
with prior MRI brain from ___, it looks like the infarcts 
were late subacute at that time. Her symtpoms were attributed to 
these two etiologies with possible contribution of serotonin 
syndrome from sertraline. Sertraline downtitration was started, 
and she was given a schedule to continue this as outpt. Stroke 
workup was performed which showed very high LDL and L carotid 
stenosis. She was discharged with 30-day event monitor and 
stroke neurology follow up, as well as spine follow-up. 

===============================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 159) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. adalimumab 10 mg/0.2 mL subcutaneous ASDIR 
2. Atenolol 100 mg PO DAILY 
3. ClonazePAM 1 mg PO BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Methotrexate 0.8 mL IM WEEKLY  
6. Sertraline 200 mg PO DAILY 
7. B Complex 1 (vitamin B complex)    oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*1 
3.  adalimumab 10 mg/0.2 mL subcutaneous ASDIR  
4.  Atenolol 100 mg PO DAILY  
5.  B Complex 1 (vitamin B complex)    oral DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Methotrexate 0.8 mL IM WEEKLY   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke
carotid stenosis
cervical spinal stenosis
myelopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of falls, trouble walking, 
and confusion resulting from a prior ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
high cholesterol
high blood pressure
Atherosclerosis (hardening of the arteries)
  
We are changing your medications as follows:  
START Aspirin 81 mg daily
START Atorvastatin 80 mg nightly
STOP clonazepam
CHANGE the dose of sertraline by the following schedule: 
___: take 150 mg (1.5 tablets) of sertraline
___: take 100 mg (1 tablets) of sertraline
___: take 50 mg (0.5 tablet) of sertraline
___: stop taking sertraline.

Please take your other medications as prescribed.  
Please follow-up with Neurology and your primary care physician 
as listed below.  
Please do not hesitate to discuss restarting sertraline or 
another medicine if you develop anxiety or feelings of 
sadness/lack of energy as we decrease the dose of sertraline. 
Discuss adding another blood pressure medicine with your Primary 
Care Physician. 

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___